US06407130B1
e) 2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-5-methylamino-benzimidazole
4.1 g (11 mmol) of N-{2-[2-(4-cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-trifluoroacetamide are cooled to about 10° C. in 20 mL dimethylsulphoxide and 80% NaH (0.33 g, about 11 mmol) are added in batches with stirring. The mixture is heated to 40-50° C. for 0.5 h and then cooled to 30° C. Methyl iodide (0.75 mL, 11.9 mmol) is then added dropwise. The mixture is stirred for 0.5 h at 40-50° C., diluted with 100 mL ethyl acetate, poured onto water and extracted. The organic phase is again washed with water, dried and evaporated down. The residue is chromatographed over silica gel. The methylated trifluoroacetamide is taken up in MeOH, combined with 10 mL of conc. aqueous ammonia solution and stirred for 4 h at 30-40° C. The methanol is distilled off, the residue is taken up in 75 mL of ethyl acetate, washed with water, dried and evaporated down. The product is crystallised from diethylether. Yield: 2.0 g (63%); melting point: 155-158° C.

reactant | N-{2-[2-(4-cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-trifluoroacetamide | 11 mmol, 4.1 g | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)NC(C(F)(F)F)=O | C19H15F3N4O
reactant | NaH | about 11 mmol, 0.33 g | [H-].[Na+]
reactant | Methyl iodide | 11.9 mmol, 0.75 mL | CI | CH3I
solvent | dimethylsulphoxide | 20 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-5-methylamino-benzimidazole | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)NC | C18H18N4
